US05807859
To a suspension of 0.55 g of 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride in 30 ml of anhydrous dimethylformamide are added successively, at a temperature in the region of 5° C., 0.73 g of 4-phenylbutyryl chloride and, over 5 minutes, a solution of 0.4 g of triethylamine in 2 ml of anhydrous dimethylformamide. After stirring for 1 hour 30 minutes at the same temperature and then for 1 hour at 20° C., the insoluble product formed is isolated by filtration and washed twice with 3 ml in total of dimethylformamide. The filtrate and washing are combined, 80 ml of distilled water are added and the insoluble product formed is isolated by filtration, washed twice with 2 ml in total of distilled water and with 3 ml of acetone and then air-dried. The product obtained (0.27 g) is suspended for 5 minutes in 3 ml of boiling methanol and, after cooling and storing for 1 hour at 5° C., the solid formed is isolated by filtration, washed with 0.5 ml of methanol and dried under reduced pressure (5 mmHg; 0.65 kPa) at 60° C. 0.15 g of 10-(4-phenylbutyramido)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one is thus obtained, decomposing without melting above 260° C. (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: 2.92 (mt, 2H: --CH2 --); 2.28 (t, J=7.5 Hz, 2H: --CH2 --Ar); 2.62 (t, J=7.5 Hz, 2H: --CO--CH2 --); 6.18 (d, J=8.5 Hz, 1H: --CH-- 10); from 7.10 to 7.55 (mt, 7H: --H of the phenyl-- --H7 and --H 8); 7.50 and 7.87 (2 broad d, J=8 Hz, 1H each: --H 6 and --H 9); 7.55 and 7.60 (2s, 1H each; --H of the imidazole); 8.53 (d, J=8.5 Hz, 1H: --NHCO-- at 10); 12.47 (broad s, 1H: --CONH-- of the ring)).

reactant | 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 0.55 g | Cl.NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O
reactant | 4-phenylbutyryl chloride | 0.73 g | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | methanol | 3 ml | CO | CH4O
product | 10-(4-phenylbutyramido)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.15 g | C1(=CC=CC=C1)CCCC(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C23H20N4O2
